US06140351
To a solution of 5-chloro-2-nitrobenzoyl chloride (23 g, 100 mmol) in methylene chloride (200 mL) at 0° C. was added triethylamine (16 mL, 115 mmol), followed by 4-chloroaniline (14 g, 110 mmol). The mixture was stirred for 20 minutes at 0° C., then warmed to ambient temperature. After 5 hours, the mixture was concentrated of all volatiles in vacuo. The residual solid was dissolved in ethyl acetate (400 mL) and washed with water (200 mL), 1M hydrochloric acid (2×200 mL), 1M sodium bicarbonate (200 mL) and brine (200 mL) and dried over MgSO4. Concentration and drying in vacuo afforded 30 g (93% yield) of N-(4-chlorophenyl)-5-chloro-2-nitrobenzamide; NMR (CDCl3) 8.1 (d, 1), 7.7 (br, 1), 7.6 (m, 2), 7.5 (d, 2), 7.3 (d, 2) ppm.

reactant | 5-chloro-2-nitrobenzoyl chloride | 100 mmol, 23 g | ClC=1C=CC(=C(C(=O)Cl)C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | triethylamine | 115 mmol, 16 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloroaniline | 110 mmol, 14 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(4-chlorophenyl)-5-chloro-2-nitrobenzamide | 30 g, 93% yield | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C13H8Cl2N2O3
